US07847100B2
To a solution of tert-butyl((1R)-1-benzyl-2-hydroxy-1-methylethyl)carbamate (6.7 g, 25.2 mmol) in DCM (100 mL) and DMSO (25 mL) was added triethylamine (10.5 mL, 75.7 mmol) and sulfurtrioxide-pyridine (10 g, 63.1 mmol). The reaction mixture was stirred at rt for 3.5 h, diluted with EtOAc, washed with 10% KHSO4, saturated NaHCO3, water, brine and aq LiCl, dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography (silica, 0-20% EtOAc/hexanes) to provide tert-butyl ((1R)-1-benzyl-1-methyl-2-oxoethyl)carbamate as a white solid. 1H NMR (400 MHz, CDCl3) δ 9.53 (s, 1H), 7.35-7.22 (m, 3H), 7.12-7.00 (m, 2H), 4.84 (br s, 1H), 3.17 (A of AB, d, J=13.6 Hz, 1H), 3.08 (B of AB, d, J=13.6 Hz, 1H), 1.51 (s, 9H), 1.27 (s, 3H).

reactant | tert-butyl((1R)-1-benzyl-2-hydroxy-1-methylethyl)carbamate | 25.2 mmol, 6.7 g | C(C)(C)(C)OC(N[C@](CO)(C)CC1=CC=CC=C1)=O | C15H23NO3
reactant | triethylamine | 75.7 mmol, 10.5 mL | C(C)N(CC)CC | C6H15N
reactant | sulfurtrioxide pyridine | 63.1 mmol, 10 g | S(=O)(=O)=O.N1=CC=CC=C1
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl ((1R)-1-benzyl-1-methyl-2-oxoethyl)carbamate | C(C1=CC=CC=C1)[C@@](C=O)(C)NC(OC(C)(C)C)=O | C15H21NO3
